US08431569B2
Step 1. 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide
A reaction mixture of 7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide (0.25 g, 0.65 mmol), bis(pinacolato)diboron (0.27 g, 1.05 mmol), Pd2(dba)3 (60 mg, 0.065 mmol), tricyclohexylphosphine (37 mg, 0.13 mmol), and potassium acetate (160 mg, 1.63 mmol) in dioxane (3.3 mL) was purged with nitrogen for 10 min, heated to 100° C. overnight, and cooled to room temperature. The mixture was diluted with EtOAc and filtered through celite. The filtrate was concentrated and purified by flash chromatography to provide the title compound. LRMS (APCI) calc'd for (C23H26BF3N4O3) [M+H]+, 475.2. found 475.1.

reactant | 7-Chloro-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-5H-pyrido[4,3-b]indole-4-carboxamide | 0.65 mmol, 0.25 g | ClC=1C=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N | C17H14ClF3N4O
reactant | bis(pinacolato)diboron | 1.05 mmol, 0.27 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | tricyclohexylphosphine | 0.13 mmol, 37 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium acetate | 1.63 mmol, 160 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 3.3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.065 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide | C1(CC1)[C@H](C(F)(F)F)NC1=NC=C(C=2NC=3C=C(C=CC3C21)B2OC(C(O2)(C)C)(C)C)C(=O)N | C23H26BF3N4O3
